US08044043B2
2-Bromo-3-vinylpyridine.
See Spivey, A. C.; Shukla, L.; Hayler, J. F. Org. Lett. 2007, 9, 891-894. Butyllithium (22.75 mL, 59.1 mmol) was added to the THF (450 mL) suspension of methyltriphenylphosphonium bromide (21.13 g, 59.1 mmol) at 0° C. The solution turned to orange and the reaction was lift to room temperature for 30 min before cooled it back to 0° C. 2-bromonicotinaldehyde (10 g, 53.8 mmol) in 50 mL THF was added through canula to the reaction solution. The precipitate was formed and the reaction was lift to room temperature. The color of the reaction turned to green, gray. After a while, the color of the reaction became orange again. The reaction was stirred at room temperature over weekend. The solvent was removed mostly via vacuum and the crude was partitioned between water and diethyl ether. The organic layer was separated and the aqueous layer was extract twice with diethyl ether. The diethyl ether layer was combined, dried (Na2SO4), filtered and concentrated. The product was obtained by flash column eluted with ethyl acetate in hexane (10%) as yellow oil (8.78 g, 89%). MS(ESI)[M+H+]=184.04; 1H NMR δ ppm (400 MHz, CHLOROFORM-d) 8.21-8.29 (m, 1 H) 7.78 (dd, J=7.68, 1.89 Hz, 1 H) 7.20-7.28 (m, 1 H) 6.96 (dd, J=17.37, 11.08 Hz, 1 H) 5.72 (d, J=17.37 Hz, 1 H) 5.46 (d, J=11.08 Hz, 1 H).

reactant | Butyllithium | 59.1 mmol, 22.75 mL | C(CCC)[Li]
reactant | 2-bromonicotinaldehyde | 53.8 mmol, 10 g | BrC1=C(C=O)C=CC=N1 | C6H4BrNO
catalyst | methyltriphenylphosphonium bromide | 59.1 mmol, 21.13 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | 2-Bromo-3-vinylpyridine | BrC1=NC=CC=C1C=C | C7H6BrN
